US07557213B2
0.23 mL (0.469 mmol, 2M in THF) isopropylmagnesium chloride was added to a solution of 104.4 mg (0.448 mmol) of 5-iodo-2,3-dimethyl-pyridine in 1 mL of tetrahydrofuran. After the reaction was stirred for 40 min at room temperature 85 mg (0.204 mmol) of 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide in 0.6 mL of tetrahydrofuran was added and the reaction stirred for 1 h. Water was added and was extracted with dichloromethane (3×10 mL). The combined organic layers were dried over magnesium sulfate, filtered and dried in vacuo. The crude product was purified by flash column chromatography using 20-100% ethyl acetate in hexane to yield 37.4 mg of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(5,6-dimethyl-pyridine-3-carbonyl)-7-methyl-1H-[1,8]naphthyridin-4-one. LC-MSD, m/z for C23H19BrN4O2 [M+H]: 463.07 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 1.7 min

reactant | isopropylmagnesium chloride | 0.469 mmol, 2M, 0.23 mL | C(C)(C)[Mg]Cl
reactant | 5-iodo-2,3-dimethyl-pyridine | 0.448 mmol, 104.4 mg | IC=1C=C(C(=NC1)C)C | C7H8IN
reactant | 1-(6-Bromo-pyridin-2-ylmethyl)-7-methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide | 0.204 mmol, 85 mg | CON(C(=O)C1=CN(C2=NC(=CC=C2C1=O)C)CC1=NC(=CC=C1)Br)C | C18H17BrN4O3
reactant | Water | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(5,6-dimethyl-pyridine-3-carbonyl)-7-methyl-1H-[1,8]naphthyridin-4-one | 37.4 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)C=1C=NC(=C(C1)C)C | C23H19BrN4O2
